US04666931
There was reacted 1 g (5.4 mmole) of 2-cyano-7-ethoxybenzofuran (with chlorosulfonic acid as in Example 1, yielding 0.65 g of 2-cyano-4-chlorosulfonyl-7-ethoxybenzofuran (yield: 43%, MS (m/z): 285 (M+), 257, 250 and 222). The obtained chlorosulfonyl compound was reacted with glycine ethyl ester hydrochloride as in Example 1 to give an ester compound (yield: 46%, MS (m/z): 385 (M+), 279, 250 and 222), which was then hydrolyzed, accompanying the hydrolysis of nitrile, to give 2-carboxy-4-(N-carboxymethylsulfamoyl)-7-ethoxybenzofuran (yellow prisms, yield: 62%). The physical constants are shown in Table 4.

reactant | 2-cyano-7-ethoxybenzofuran | 5.4 mmole, 1 g | C(#N)C=1OC2=C(C1)C=CC=C2OCC | C11H9NO2
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | 2-cyano-4-chlorosulfonyl-7-ethoxybenzofuran | 0.65 g, yield: 43% | C(#N)C=1OC2=C(C1)C(=CC=C2OCC)S(=O)(=O)Cl | C11H8ClNO4S
